US08835451B2
B. {4-[4-(6-Oxo-1,6-dihydro-pyridazin-3-yl)-phenyl]-cyclohexyl}-acetic acid ethyl ester
To a solution of [4-(4-acetyl-phenyl)-cyclohexyl]-acetic acid ethyl ester (17 g, 59 mmol, 1.0 equiv) in 100 Ml glacial acetic acid was added glyoxylic acid monohydrate (5.4 g, 59 mmol, 1.0 equiv) as a solid. The solution was heated to 100° C. for 2 h. The mixture was then cooled to 40° C., then 75 Ml water was added followed by 120 Ml of a 28% ammonium hydroxide solution until the Ph was measured to be 8. Hydrazine (2.0 Ml, 65 mmol, 1.1 equiv) was then added via syringe, and the reaction was then heated to 95° C. for 2 hr. Upon cooling to room temperature, a solid precipitate was filtered off to afford the title compound in addition to the uneliminated product {4-[4-(5-hydroxy-6-oxo-1,4,5,6-tetrahydro-pyridazin-3-yl)-phenyl]-cyclohexyl}-acetic acid ethyl ester. This mixture was taken into the next step without further purification. (M+H)+341.2.

reactant | [4-(4-acetyl-phenyl)-cyclohexyl]-acetic acid ethyl ester | 59 mmol, 17 g, 1.0 equiv | C(C)OC(CC1CCC(CC1)C1=CC=C(C=C1)C(C)=O)=O | C18H24O3
reactant | glyoxylic acid monohydrate | 59 mmol, 5.4 g, 1.0 equiv | O.C(C=O)(=O)O
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | Hydrazine | 65 mmol, 1.1 equiv | NN | H4N2
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | {4-[4-(6-Oxo-1,6-dihydro-pyridazin-3-yl)-phenyl]-cyclohexyl}-acetic acid ethyl ester | C(C)OC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NNC(C=C1)=O)=O | C20H24N2O3
